US07521449B2
A) 1-Benzyl-4-(4-chlorophenyl)piperidine-4-carbonitrile
To a suspension of 9.8 g of 60% sodium hydride in oil in 140 ml of THF and 60 ml of DMSO is added dropwise, at rt, a solution of 11.3 g of 4-chlorophenylacetonitrile and 20 g of benzyl[bis(2-chloroethyl)]amine hydrochloride in 140 ml of THF and 60 ml of DMSO, and the mixture is then heated at 70-80° C. for 2 hours. After cooling, the reaction mixture is poured onto ice and extracted with ether, the organic phase is washed with water and dried over Na2SO4, and the solvent is evaporated off under vacuum. The residue is chromatographed on silica gel, eluting with a heptane/EtOAc mixture (90/10; v/v). 19.6 g of the expected compound are obtained.

reactant | sodium hydride | 9.8 g | [H-].[Na+]
reactant | 4-chlorophenylacetonitrile | 11.3 g | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | benzyl[bis(2-chloroethyl)]amine hydrochloride | 20 g | Cl.C(C1=CC=CC=C1)N(CCCl)CCCl
solvent | THF | 140 ml | C1CCOC1 | C4H8O
solvent | THF | 140 ml | C1CCOC1 | C4H8O
solvent | DMSO | 60 ml | CS(=O)C | C2H6OS
solvent | DMSO | 60 ml | CS(=O)C | C2H6OS
product | 1-Benzyl-4-(4-chlorophenyl)piperidine-4-carbonitrile | 19.6 g | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)C1=CC=C(C=C1)Cl | C19H19ClN2
